US07569600B2
To a solution of 5-cyclohex-1-enyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (25 mg, 0.054 mmol) in DMSO (0.2 mL) was added a mixture of acetic acid and acetic anhydride (1:5.6) (0.17 mL). After stirring for 1.5 h at room temperature it was held at 40° C. for 5 h. It was cooled to room temperature and stirred for 16 h. The mixture was cooled in ice-bath and NaHCO3 solution was added carefully. It was extracted with ether. The extract was washed with water and brine, dried over MgSO4 and evaporated. Xs Pure 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-methylsulfanylmethoxy-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester was obtained by chromatography over silica gel (hexane:EtOAc=−4:1) (22 mg, 77%).

reactant | 5-cyclohex-1-enyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.054 mmol, 25 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)C1=CCCCC1 | C26H37NO4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 0.17 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | DMSO | 0.2 mL | CS(=O)C | C2H6OS
product | 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-methylsulfanylmethoxy-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N([C@@H]1CC[C@H](CC1)OCSC)C(=O)[C@@H]1CC[C@H](CC1)C)C1=CCCCC1 | C28H41NO4S2
